US07432287B2
Preparation of 5-(1-hydroxymethyl-propoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 128 was obtained as a colorless amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-methanesulfonylpyridine, (2S)-1-(tert-butyldimethylsiloxy)-2-hydroxybutane and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-methanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | (2S)-1-(tert-butyldimethylsiloxy)-2-hydroxybutane | O([Si](C)(C)C(C)(C)C)C[C@H](CC)O | C10H24O2Si
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(1-hydroxymethyl-propoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | OCC(CC)OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)OC=1C=NC(=CC1)S(=O)(=O)C | C21H24N4O6S
